US05079260
A solution of 2-methyl-9-fluorenecarboxylic acid (6 g, 26.8 mmol) in 300 mL of THF at 0° C. was charged with IM THF solution of BH3-THF complex (53.5 mL, 53.5 mmol). The reaction mixture was stirred overnight then quenched with 30 mL of 10% acetic acid in methanol and diluted with 300 mL of water. The layers were separated, the aqueous phase was extracted with ethyl acetate (3×50 mL), the combined extracts were dried over magnesium sulfate and evaporated to give colorless oil. Crystallization was accomplished upon treatment of the oil with 200 mL of hexane. Recrystallization from ethanol:water 4:1 afforded 4.55 g (80.6%) of 2-methyl-9-fluorenemethanol.

reactant | 2-methyl-9-fluorenecarboxylic acid | 26.8 mmol, 6 g | CC1=CC=2C(C3=CC=CC=C3C2C=C1)C(=O)O | C15H12O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-methyl-9-fluorenemethanol | 4.55 g, 80.6% | CC1=CC=2C(C3=CC=CC=C3C2C=C1)CO | C15H14O
